.subckt buf4 in out vdd
mp1  tmp in  vdd vdd   pmos l=45n w=32u
mn1  tmp in  0   0     nmos l=45n w=21.92u
mp2  out tmp  vdd vdd   pmos l=45n w=32u
mn2  out tmp  0   0     nmos l=45n w=21.92u
.ends buf4
